### PR TITLE
[Merged by Bors] - feat(Data/Sign): some more API for `SignType`

### PR DESCRIPTION
**Pull request by loefflerd**
Since `Real.sign` etc are being deprecated in favour of the generic `SignType.sign`, this PR adds some more API for the latter: in particular, compatibility of the canonical maps in and out of `SignType` with maps satisfying suitable assumptions. This is a prerequisite for #10011.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Sign.lean [hunk 1]
```diff
@@ -265,6 +277,11 @@ theorem coe_neg_one : ↑(-1 : SignType) = (-1 : α) :=
   rfl
 #align sign_type.coe_neg_one SignType.coe_neg_one
 
+@[simp]
+lemma coe_neg {α : Type*} [One α] [SubtractionMonoid α] (s : SignType) :
+    (↑(-s) : α) = -↑s := by
+  cases s <;> simp
```
Comment (jsm28) [inline Mathlib/Data/Sign.lean:283]: I think this should be marked as a `norm_cast` lemma.

Comment (loefflerd) [reply Mathlib/Data/Sign.lean]: OK, done

**Comment by jsm28** [comment]
maintainer merge

File: Mathlib/Data/Sign.lean [hunk 2]
```diff
@@ -250,6 +250,18 @@ instance : CoeTC SignType α :=
...
 -- Porting note: `cast_eq_coe` removed, syntactic equality
 
+/-- Casting out of `SignType` respects composition with functions preserving `0, 1, -1`. -/
+lemma comp_cast' {β : Type*} [One β] [Neg β] [Zero β]
+    (f : α → β) (h₁ : f 1 = 1) (h₂ : f 0 = 0) (h₃ : f (-1) = -1) (s : SignType) :
+    f s = s := by
+  cases s <;> simp only [SignType.cast, h₁, h₂, h₃]
+
+/-- Casting out of `SignType` respects composition with suitable bundled homomorphism types. -/
+lemma comp_cast {α β F : Type*} [AddGroupWithOne α] [One β] [SubtractionMonoid β]
```
Comment (eric-wieser) [inline Mathlib/Data/Sign.lean:260]: This should be called `map_cast`, and I guess the above can be renamed similarly.

Comment (loefflerd) [reply Mathlib/Data/Sign.lean:260]: OK, will do. There are also a bunch of pre-existing lemmas about `SignType.cast` with names like `coe_one`, should these become `cast_one` etc? (I am not sure if there is supposed to be a distinction between casting and coercion, or whether one is just the mathlib4 equivalent of the other.)

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
